US07538121B2
6-(4-Chlorophenyl)-N-quinolin-7-yl-nicotinamide
Using the procedure outlined in Example 100, the title compound was prepared from 6-chloro-N-quinolin-7-yl-nicotinamide (D70) (40 mg, 0.14 mmol) and 4-chlorophenylboronic acid (27 mg, 0.17 mmol) as a pale yellow solid. 1H NMR (250 MHz, CDCl3) δ (ppm): 9.25 (dd, 1H), 8.82 (dd, 1H), 8.43 (dd, 1H), 8.33 (dd, 1H), 8.22 (br.d, 1H), 8.11 (d, 1H), 8.00 (d, 2H), 7.89 (d, 1H), 7.87 (d, 1H), 7.51 (d, 2H), 7.40 (dd, 1H).

reactant | 6-chloro-N-quinolin-7-yl-nicotinamide | 0.14 mmol, 40 mg | ClC1=NC=C(C(=O)NC2=CC=C3C=CC=NC3=C2)C=C1 | C15H10ClN3O
reactant | 4-chlorophenylboronic acid | 0.17 mmol, 27 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | 6-(4-Chlorophenyl)-N-quinolin-7-yl-nicotinamide | ClC1=CC=C(C=C1)C1=NC=C(C(=O)NC2=CC=C3C=CC=NC3=C2)C=C1 | C21H14ClN3O
